US08349828B2
C.i. 2-(2-methoxy-quinolin-8-yloxy)-malonic acid diethyl ester
To a solution of 2-methoxy-quinolin-8-ol (commercial; 1.75 g, 10 mmol) and diethyl bromomalonate (1.85 mL, 10 mmol) in DMF (35 mL) was added Cs2CO3 (6.52 g, 20 mmol). The reaction mixture was heated at 80° C. for 1.5 h then allowed to cool to rt. The reaction mixture was filtered and the filtrate concentrated to dryness. The residue was purified by CC (EA-Hept 1:3 to 1:1) to give the title compound as a yellowish oil (2.50 g, 75% yield).

reactant | 2-methoxy-quinolin-8-ol | 10 mmol, 1.75 g | COC1=NC2=C(C=CC=C2C=C1)O | C10H9NO2
reactant | diethyl bromomalonate | 10 mmol, 1.85 mL | BrC(C(=O)OCC)C(=O)OCC | C7H11BrO4
reactant | Cs2CO3 | 20 mmol, 6.52 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 35 mL | CN(C)C=O | C3H7NO
product | 2-(2-methoxy-quinolin-8-yloxy)-malonic acid diethyl ester | 2.50 g, 75% yield | C(C)OC(C(C(=O)OCC)OC=1C=CC=C2C=CC(=NC12)OC)=O | C17H19NO6
